US05053240
Coloration of milk. A 6.6& solution of pure potassium norbixin (so-called "cheese color") was diluted to 1.1% with water, and the dilute solution added with agitation to whole milk to give a level of 100 ppm norbixin in the milk. The resulting color was light orange.

reactant | potassium norbixin | C/C(=C\C=C\C=C(\C=C\C=C(\C=C\C(=O)[O-])/C)/C)/C=C/C=C(/C=C/C(=O)[O-])\C.[K+].[K+]
solvent | water | O | H2O
product | norbixin | C/C(=C\C=C\C=C(\C=C\C=C(\C=C\C(=O)O)/C)/C)/C=C/C=C(/C=C/C(=O)O)\C | C24H28O4
